US05914339
5-(2-{tert-Butoxycarbonyl-[2-(3-chloro-phenyl)-2-hydroxy-ethyl]-amino}-propyl)-benzo[1,3]dioxole-2,2-dicarboxylic acid
To a stirred solution of 5-(2-{tert-butoxycarbonyl-[2-(3-chloro-phenyl)-2-hydroxy-ethyl]-amino}-propyl)-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-ethyl ester (4.42 g, 7.65 mmol), MeOH (100 mL) and H2O (25 mL) was added 5 N NaOH (7.64 mL, 38.2 mmol). After 19 h, the solution was concentrated to an aqueous mixture and acidified to pH=1 with 1 N aq. HCl which turns the solution milky-white. Extraction with 3×100 mL EtOAc, washing the combined organics with 1×200 mL brine, drying over Na2SO4, filtration and concentration gave 3.96 g (99%) of product as a white solid; 1H NMR (300 MHz, DMSO-d6): δ 1.16 (d, J=6.7 Hz, 3H), 1.31 (s, 9H), 2.55-2.70 (m, 1H), 2.80-2.92 (m, 1H), 3.05-3.23 (m, 2H), 3.71-3.93 (m, 2H), 4.62-4.87 (m, 2H), 5.30-5.90 (brs, 1H), 6.59-6.99 (complexm, 4H), 7.14-7.47 (complexm, 3H), 8.60-8.80 (brs, 1H); MS (ES) m/z (relative intensity): 522. (M+ +H, 50).

reactant | 5-(2-{tert-butoxycarbonyl-[2-(3-chloro-phenyl)-2-hydroxy-ethyl]-amino}-propyl)-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-ethyl ester | 7.65 mmol, 4.42 g | C(C)OC(=O)C1(OC2=C(O1)C=CC(=C2)CC(C)N(CC(O)C2=CC(=CC=C2)Cl)C(=O)OC(C)(C)C)C(=O)OCC | C29H36ClNO9
reactant | MeOH | 100 mL | CO | CH4O
reactant | NaOH | 38.2 mmol, 5 N, 7.64 mL | [OH-].[Na+]
solvent | H2O | 25 mL | O | H2O
product | 5-(2-{tert-Butoxycarbonyl-[2-(3-chloro-phenyl)-2-hydroxy-ethyl]-amino}-propyl)-benzo[1,3]dioxole-2,2-dicarboxylic acid | 3.96 g, 99% | C(C)(C)(C)OC(=O)N(C(CC1=CC2=C(OC(O2)(C(=O)O)C(=O)O)C=C1)C)CC(O)C1=CC(=CC=C1)Cl | C25H28ClNO9
